US07173043B2
To 7.0 g (15.6 mmol) 2-({4-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-butyl}-ethyl-amino)-ethanol in 20 ml DMF were added 1.9 g (28.0 mmol, 1.8 eq) imidazole, followed by 3.3 g (21.8 mmol, 1.4 eq) tert-butyldimethylchlorosilane in 20 ml DMF at 0° C. The solution was stirred at 50° C. for 6 h, and at RT for 48 h. Additional 235 mg (1.5 mmol, 0.1 eq) tert-butyldimethylchlorosilane were added and the solution was stirred at 50° C. for 2 h. The solution was poured on an aqueous solution of NaHCO3. The inorganic layer was extracted with ether, and the combined organic phases were washed with brine and dried over Na2SO4. Column chromatography on silica gel with CH2Cl2:MeOH 95:5 gave 6.5 g (74%) {4-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-butyl}-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-ethyl-amine as brown oil, MS: 563 (MH+,1Br).

reactant | 2-({4-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-butyl}-ethyl-amino)-ethanol | 15.6 mmol, 7.0 g | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCCCCN(CCO)CC | C21H25BrN2O2S
reactant | imidazole | 28.0 mmol, 1.9 g, 1.8 eq | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylchlorosilane | 21.8 mmol, 3.3 g, 1.4 eq | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | tert-butyldimethylchlorosilane | 1.5 mmol, 235 mg, 0.1 eq | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | {4-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-butyl}-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-ethyl-amine | 6.5 g, 74% | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCCCCN(CC)CCO[Si](C)(C)C(C)(C)C | C27H39BrN2O2SSi
